US06812225B2
Ethyl-8-(4-Methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylic acid
Ethyl 8-bromo-4-oxo-4H-chromene-2-carboxylate as prepared in Reference Example 1c (Davies, Stephen et al., J. Chem. Soc. Perkin Trans I p 2597, 1987) (3.0 g, 10.1 mmol) was azeotroped with anhydrous toluene then the white solid was dissolved in 100 mL anhydrous toluene and transferred to the reaction vessel. The mixture was subjected to vacuum/argon (×2) and the following were added in order (positive argon pressure): N-methylpiperazine (1.3 ml, 11.1 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.75 g, 1.2 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.48 g, 0.5 mmol) then cesium carbonate (4.6 g, 14.1 mmol). The mixture was again subjected to vacuum/argon and was heated at 80° C. overnight.

reactant | Ethyl 8-bromo-4-oxo-4H-chromene-2-carboxylate | BrC=1C=CC=C2C(C=C(OC12)C(=O)OCC)=O | C12H9BrO4
reactant | N-methylpiperazine | 11.1 mmol, 1.3 ml | CN1CCNCC1 | C5H12N2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.2 mmol, 0.75 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 14.1 mmol, 4.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.5 mmol, 0.48 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl-8-(4-Methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylic acid | C(C)C1=C(OC2=C(C=CC=C2C1=O)N1CCN(CC1)C)C(=O)O | C17H20N2O4
